US06720320B2
3-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole
1-(Hydroxyimino)-1-(4-methoxybenzo(b)furan-2-yl)methylamine (3.4 g) was dissolved in acetic anhydride (40 ml) and the mixture was refluxed under heating for 14 hr. The reaction mixture was concentrated under reduced pressure and the obtained residue was recrystallized from acetonitrile to give the title compound (1.1 g) as pale-as brown crystals.

reactant | 1-(Hydroxyimino)-1-(4-methoxybenzo(b)furan-2-yl)methylamine | 3.4 g | ON=C(C1=CC2=C(O1)C=CC=C2OC)N | C10H10N2O3
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 1.1 g | COC1=CC=CC=2OC(=CC21)C2=NOC(=N2)C | C12H10N2O3
